US06770666B2
Production of Ethyl 2-[4-(3-bromophenoxy)phenyl]-1-cyclohexylbenzimidazole-5-carboxylate
4-(3-Bromophenoxy)benzoic acid (74 g) was dissolved in chloroform (500 ml), and oxalyl chloride (33 ml) and dimethylformamide (catalytic amount) were added. The mixture was stirred for 4 hr at room temperature. The reaction mixture was concentrated under reduced pressure and dissolved in dichloromethane (150 ml). The resulting solution was added dropwise to a solution of ethyl 3-amino-4-cyclohexylaminobenzoate (66 g) obtained in the previous step in dichloromethane (500 ml) and triethylamine (71 ml), and the mixture was stirred for 1 hr at room temperature. The reaction mixture was poured into water and extracted with dichloromethane. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. Diethyl ether was added to the residue for crystallization and the crystals were collected by filtration to give the title compound (129 g, yield 95%).

reactant | 4-(3-Bromophenoxy)benzoic acid | 74 g | BrC=1C=C(OC2=CC=C(C(=O)O)C=C2)C=CC1 | C13H9BrO3
reactant | oxalyl chloride | 33 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | water | O | H2O
reactant | triethylamine | 71 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 2-[4-(3-bromophenoxy)phenyl]-1-cyclohexylbenzimidazole-5-carboxylate | 129 g, yield 95% | BrC=1C=C(OC2=CC=C(C=C2)C2=NC3=C(N2C2CCCCC2)C=CC(=C3)C(=O)OCC)C=CC1 | C28H27BrN2O3
